US04592866
2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methylpyrido[4,3-f][1,4]-oxazepine-5(4H)-thione hydrochloride [2:3]
To a solution of 0.5 g (0.002 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[4,3-f][1,4]-oxazepine-5(4H)-thione in 20 ml of ethyl alcohol was added 2 ml of 40% aqueous dimethylamine. The mixture was heated in a steel bomb to 100° C. for 14 hr. The resulting solution was filtered and concentrated. The residue was dissolved in isopropyl alcohol and a few drops of ethereal hydrogen chloride were added. The hydrochloride salt crystals were recrystallized by dissolving in ethyl alcohol and boiling while replacing the ethyl alcohol with isopropyl alcohol. The yield of product was 0.3 g (47%), m.p.: decomp. above 200° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[4,3-f][1,4]-oxazepine-5(4H)-thione | 0.002 mole, 0.5 g | ClCCC1OC2=C(C(N(C1)C)=S)C=CN=C2 | C11H13ClN2OS
reactant | dimethylamine | 2 ml | CNC | C2H7N
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methylpyrido[4,3-f][1,4]-oxazepine-5(4H)-thione hydrochloride | Cl.CN(CCC1OC2=C(C(N(C1)C)=S)C=CN=C2)C | InChI=1S/C13H19N3OS.ClH/c1-15(2)7-5-10-9-16(3)13(18)11-4-6-14-8-12(11)17-10;/h4,6,8,10H,5,7,9H2,1-3H3;1H
